US04215057
Preparation of 2-methylfuran-3-carboxylic acid methyl ester.
58.055 kg (500 mol) acetacetic acid methyl ester are introduced into a vessel with a stirrer and 22.5 kg (487.5 Val) of ground dolomite having a grain size of 30 μm are mixed therewith. Then 0.988 kg (12.5 mol=2.5 mol%) pyridine are added thereto and the mixture is heated to 70° C., whereupon 87.2 kg (500 mol) 45% aqueous chloracetaldehyde solution are metered in within one hour. The temperature in the reaction is maintained at 70° C. by slight cooling. About 4 hours after the onset of the reaction, light heating is required; after 6-7 hours, heating to 75°-80° C. is performed, and thereafter heating is discontinued and stirring is continued for some time at falling temperatures. To the reaction mixture cooled to room temperature, concentrated hydrochloric acid is added in portions in order to decompose excessive dolomite. After separation of phases the aqueous bottom layer is removed and the organic layer washed with 76 liters of water. For better phase separation, about 2 kg. salt are added. The organic phase, which is now the bottom phase, is separated and distilled under reduced pressure. The yield in 2-methyl-3-carboxylic acid methyl ester amounts to 53.6 kg=76.6% of the theoretical amount.

reactant | Val | N[C@@H](C(C)C)C(=O)O | C5H11NO2
reactant | pyridine | 12.5 mol, 0.988 kg | N1=CC=CC=C1 | C5H5N
reactant | chloracetaldehyde | 500 mol, 87.2 kg | ClCC=O | C2H3ClO
reactant | hydrochloric acid | Cl | ClH
product | 2-methylfuran-3-carboxylic acid methyl ester | COC(=O)C1=C(OC=C1)C | C7H8O3
